US04775756
28 ml of sulfuric acid (d=1.8; 0.45 mol) were heated to 120° while stirring and treated in one portion with 11.25 g of 5-(4-amino-3,5-dimethoxyphenyl)-5-hydroxybarbituric acid (0.038 mol). The mixture was stirred until evolution of gas was no longer observed (about 15-20 minutes) and then poured into a mixture of 140 g of ice and 140 g of water while stirring. Resinous polymerization products were separated by a filtration over a pad of 15 g of celite. While stirring and cooling, the filtrate was treated with 63.6 g of potassium carbonate powder until neutral. The aqueous suspension was extracted three times with 50 ml of ethyl acetate each time, the combined organic phases were dried over sodium sulfate and concentrated in water-jet vacuum. The residue was dried up to constant weight in a high vacuum. There was obtained 6.36 of crude 4-amino-3,5-dimethoxybenzaldehyde as a yellow oil which solidified on standing (mp=94°-96° C.). The purity determined by gas chromatography was 96%. 4-amino-3,5-dimethoxybenzaldehyde was converted into 2,4diamino-5-(4-amino-3,5-dimethoxybenzyl)pyrimidine as follows:

reactant | sulfuric acid | 0.45 mol, 28 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(4-amino-3,5-dimethoxyphenyl)-5-hydroxybarbituric acid | 0.038 mol, 11.25 g | NC1=C(C=C(C=C1OC)C1(C(NC(NC1=O)=O)=O)O)OC | C12H13N3O6
solvent | water | 140 g | O | H2O
product | 4-amino-3,5-dimethoxybenzaldehyde | NC1=C(C=C(C=O)C=C1OC)OC | C9H11NO3
